* tb_por_deglitch -- GENERATED by sim/build_tb.py
* Do not edit. Sources:
*   sim/por-output-chain-deglitch/testbench/stimulus.spice
*   design/netlist/por_output_chain.spice  (sha256 f71217cddbbdd31985e4c8f89cc77717a77e514723ce437e8fed7e80931c9817)
* Regenerate with:
*   python3 sim/build_tb.py

* por-output-chain-deglitch -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/por_output_chain.spice,
* appended by sim/build_tb.py to produce tb_por_deglitch.spice. Edit THIS file
* (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* WHAT THIS EXPERIMENT SUBSTANTIATES
*
* spec/target-spec.md#por-brownout owns a TBD this issue has to fill: the
* deglitch dwell time, which must be <= T_dip,min = 10 us for the brownout row
* to hold at all. Per DR-005 the dwell is this cell's job and is a separate,
* time-domain mechanism from the comparator's static hysteresis (#10) -- the
* two are not interchangeable and must not be double-counted.
*
* Three things are measured, all on the same run:
*
*   1. DWELL. POR_RAW falls; how long until RESETn is asserted again? That is
*      the deglitch dwell plus a few ns of logic, and it is what T_dip,min has
*      to exceed. Measured end-to-end at the pin on xdut1, and also at the
*      internal PGDG node so the dwell can be attributed to the filter rather
*      than to the rest of the chain.
*   2. QUALIFYING-DIP CAPTURE. The dip used for (1) is exactly 10 us -- the
*      spec's own T_dip,min -- not a comfortable long one. A dwell that is
*      nominally under 10 us but creeps over it at a corner shows up here as a
*      RESETn that never reaches a valid low, which the vmin check catches.
*   3. NO EARLY / DOUBLE PULSE. Sub-dwell chatter on POR_RAW is applied twice:
*      once while RESETn is asserted (must not restart or truncate the pulse,
*      and must not produce an early release) and once after it has released
*      (must not produce a spurious re-assertion). This is the "POR_RAW
*      chatters near threshold before the deglitch settles" edge case.
*   4. REJECTION-WIDTH MARGIN (#200). A THIRD chatter burst, 1.05 us wide --
*      5 % wider than the 1 us the checks above use -- is applied after the
*      qualifying dip has restarted the pulse. Its job is to put a number on
*      how much width margin the filter has left, at every one of the 81 PVT
*      points, instead of only asserting that one width is rejected. What it
*      measures is the one-shot's own charge (TIM before vs. its minimum over
*      the burst), because losing timer charge -- XMDIS conducting and the
*      reset pulse restarting -- is the functional failure; PGDG merely
*      drooping is not.
*
*      WHY 1.05 us. control/width_results.md walks the glitch width at the two
*      fastest corners and brackets the post-layout netlist's rejection ceiling
*      between 1.0 us (rejected) and 1.25 us (disturbed) -- the schematic's
*      bracket is 1.75 / 2.0 us. 1.05 us is inside that bracket: wider than the
*      burst the checks above use, and still a width the design AS DRAWN
*      rejects at every one of the 81 points, which is what makes it a check
*      rather than a known failure. The control answers this at two corners
*      and is overwritten on every run; this burst carries the same question
*      onto the corner grid, where the answer is recorded append-only.
*
*      It sits AFTER every other measurement window on purpose: nothing in
*      this stimulus changes before 12.99 ms, so every measurement that
*      existed before it did is bit-identical to a run without it (verified
*      across all 81 points, both netlists) and the records stay comparable.
*
* TWO DUTS, BECAUSE THE DWELL SCALES AS 1/IBIAS
*
*   xdut1  IBIAS = 0.5 uA       DR-005 nominal. Carries the end-to-end RESETn
*                               measurements, which need a prior release and
*                               therefore a timer that finishes in time.
*   xdut2  IBIAS = 91.0251 nA   the stress case for the <= 10 us dwell, since
*                               less bias current means a slower filter.
*                               Re-cut by issue #221 from an idealised 0.5x
*                               nominal (0.25 uA) to the worst-case CURRENT
*                               THE ASSEMBLY ACTUALLY DELIVERS to this cell's
*                               own IBIAS pin: 0.182x nominal, measured across
*                               the full 81-point PVT grid in BOTH RESETn
*                               states by sim/por-output-chain-ibias-sharing/
*                               (bias_core sharing the node with a possibly-
*                               enabled temp_core and por_comparator, per
*                               DR-010). The binding point is RESETn
*                               RELEASED, ss/-40C/2.97V, post-layout record
*                               20260811-134430-cba9efb (91.0251 nA; the
*                               schematic-level record's worst point,
*                               91.0761 nA, is not materially different --
*                               design/por_output_chain.md's own "XMBD/IBIAS
*                               watch item" already confirms the extraction
*                               adds no series impedance on this path). This
*                               is a single FIXED value applied uniformly
*                               across the whole PVT grid, exactly as the
*                               idealised 0.25 uA it replaces was -- the
*                               worst-case *delivered* current, not a
*                               per-corner-matched one; see
*                               design/por_output_chain.md's "Hand-off to
*                               #11" section for why this is the correct
*                               stress direction. Its timer takes far longer
*                               than xdut1's to finish, so only its internal
*                               PGDG dwell is asserted on; that is the filter
*                               output and is the number the spec row
*                               actually constrains. The measurement key
*                               (dwell_pgdg_halfib_us) keeps its historical
*                               name for continuity with every prior
*                               append-only record it was measured against;
*                               it is no longer literally "half nominal".
*
* TIMELINE
*
*   0     -> 100 us   VDD ramps 0 -> vdd_val. POR_RAW low.
*   300 us            POR_RAW high: release conditions met, both timers start.
*   1.0 / 1.1 / 1.2 ms  three 1 us LOW glitches on POR_RAW, DURING assertion.
*   (<=10 ms)         xdut1 releases -- once.
*   11.0 / 11.1 / 11.2 ms  three 1 us LOW glitches, AFTER release.
*   12.0 ms           POR_RAW low for exactly 10 us: the qualifying brownout
*                     dip of the por-brownout row. RESETn must re-assert and
*                     the full pulse must regenerate.
*   13.0 / 13.1 / 13.2 ms  three 1.05 us LOW glitches, DURING the regenerated
*                     pulse -- placed at the same 1.0/1.1/1.2 ms offset from
*                     the restart at 12.01 ms that the first battery has from
*                     the start at 300.1 us, so the one-shot is charging
*                     steadily in both, the same regime. The regenerated pulse
*                     is >4 ms at every corner recorded so far, so RESETn is
*                     still asserted throughout this burst.
*   13.6 ms           end.

vsup vdd 0 PWL(0 0 100u {vdd_val} 14m {vdd_val})

* POR_RAW: high from 300 us, with three batteries of sub-dwell chatter (two at
* 1 us, one at 1.05 us) and one 10 us qualifying dip. Edges are 100 ns so the
* glitches are genuinely as wide at the pin as they are drawn here rather than
* being softened into nothing by the source.
vpr por_raw 0 PWL(0 0
+ 300u 0 300.1u {vdd_val}
+ 999.9u {vdd_val} 1000u 0 1001u 0 1001.1u {vdd_val}
+ 1099.9u {vdd_val} 1100u 0 1101u 0 1101.1u {vdd_val}
+ 1199.9u {vdd_val} 1200u 0 1201u 0 1201.1u {vdd_val}
+ 10999.9u {vdd_val} 11000u 0 11001u 0 11001.1u {vdd_val}
+ 11099.9u {vdd_val} 11100u 0 11101u 0 11101.1u {vdd_val}
+ 11199.9u {vdd_val} 11200u 0 11201u 0 11201.1u {vdd_val}
+ 11999.9u {vdd_val} 12000u 0 12010u 0 12010.1u {vdd_val}
+ 12999.9u {vdd_val} 13000u 0 13001.05u 0 13001.15u {vdd_val}
+ 13099.9u {vdd_val} 13100u 0 13101.05u 0 13101.15u {vdd_val}
+ 13199.9u {vdd_val} 13200u 0 13201.05u 0 13201.15u {vdd_val}
+ 14m {vdd_val})

Bib1 vdd nib1 i='500n*min(1, max(0, (v(vdd)-1.5)/0.5))'
vib1 nib1 ibias1 dc 0
Bib2 vdd nib2 i='91.0251n*min(1, max(0, (v(vdd)-1.5)/0.5))'
vib2 nib2 ibias2 dc 0

vd1 vdd vdd1 dc 0
vd2 vdd vdd2 dc 0

Cl1 resetn1 0 5p
Rl1 resetn1 0 1T
Cl2 resetn2 0 5p
Rl2 resetn2 0 1T

xdut1 vdd1 0 ibias1 por_raw resetn1 por_output_chain
xdut2 vdd2 0 ibias2 por_raw resetn2 por_output_chain

* por_output_chain -- generated by design/netlist.py from design/por_output_chain.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/por_output_chain.sch
.subckt por_output_chain VDD VSS IBIAS POR_RAW RESETn
*.PININFO VDD:B VSS:B IBIAS:I POR_RAW:I RESETn:O
XMBD IBIAS IBIAS VSS VSS nfet_03v3 L=4u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 PDN IBIAS VSS VSS nfet_03v3 L=25u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPD PDN PDN VDD VDD pfet_03v3 L=10u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 NDL PDN VDD VDD pfet_03v3 L=10u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMND NDL NDL VSS VSS nfet_03v3 L=10u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDGPT NDGP PDN VDD VDD pfet_03v3 L=10u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDGPI NDG POR_RAW NDGP VDD pfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDGNI NDG POR_RAW NDGN VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDGNT NDGN NDL VSS VSS nfet_03v3 L=10u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCDG NDG VSS cap_mim_2f0_m3m4_noshield c_width=11u c_length=11u m=1
XMG1P PGDG NDG VDD VDD pfet_03v3 L=2u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG1N PGDG NDG VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2P PGDGB PGDG VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMG2N PGDGB PGDG VSS VSS nfet_03v3 L=2u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPT NTS PDN VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTSW TIM PGDGB NTS VDD pfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDIS TIM PGDGB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCTIM TIM VSS cap_mim_2f0_m3m4_noshield c_width=28u c_length=28u m=4
XMDAPI ND1 TIM VDD VDD pfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDANT ND1 NDL VSS VSS nfet_03v3 L=10u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDBNI TRIP ND1 VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMDBPT TRIP PDN VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMRLK ND1 RESETn VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAP1 RSTB TRIP VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAP2 RSTB PGDG VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAN1 RSTB TRIP NNAND VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAN2 NNAND PGDG VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMAST RSTB RESETn VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOP RESETn RSTB VDD VDD pfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMON RESETn RSTB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
